*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/3.30e-04[uF]/50[V]
* Murata P/N :GRM15XR71H331KA86
* Property : C = 3.30e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM15XR71H331KA86 Port1 Port2
C01 Port1 N01 3.19e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 2.27e-10
R03 N02 N03 5.09e-01
C04 N03 N04 2.34e-08
R04 N03 N04 9.02e+04
C05 N04 N05 5.18e-08
R05 N04 N05 7.16e+03
C06 N05 N06 4.58e-08
R06 N05 N06 6.24e+02
C07 N06 N07 3.82e-08
R07 N06 N07 7.00e+01
C08 N07 N08 2.74e-08
R08 N07 N08 1.00e+01
C09 N08 N09 2.70e-08
R09 N08 N09 1.63e+00
C10 N09 N10 9.86e-09
R10 N09 N10 8.75e-01
C11 N10 N11 2.10e-09
R11 N10 N11 5.67e-01
L12 N11 N12 5.18e-11
R12 N11 N12 8.47e-01
C13 N12 Port2 4.85e-12
L13 N12 Port2 6.71e-11
R13 N12 Port2 4.87e+00
.ENDS GRM15XR71H331KA86
